US05405851
Ethyl 6-bromo-3,4-dihydro-2-hydroxy-1-naphthoate (6.0 g, 20.2 mmoles) was reacted with guanidine (6.9 g of hydrochloride salt, 72.2 mmoles) in the same manner as in example 1. The product was precipitated from aqueous sodium hydroxide with acetic acid, filtered, washed with water and dried to give 3-amino-8-bromo-5,6-dihydrobenzo[f]quinazolin-1(2H)-one as an off-white solid. (2.75 g, 46%) 1H NMR(DMSO-d6, 300 MHz) δ: 2.55(t, J=7.5 Hz, 2H, CH2); 2.79(t, J=7.4 Hz, 2H, CH2); 6.75(br s, 2H, NH2); 7.32(dd, J=8.4, 2.3 Hz, 1H, Ar); 7.34(s, 1H, Ar); 8.40(d, J=8.4 Hz, 1H, Ar); 11.00(br s, 1H, NH).

reactant | Ethyl 6-bromo-3,4-dihydro-2-hydroxy-1-naphthoate | 20.2 mmoles, 6.0 g | BrC=1C=C2CCC(=C(C2=CC1)C(=O)OCC)O | C13H13BrO3
reactant | guanidine | 72.2 mmoles, 6.9 g | NC(=N)N | CH5N3
product | 3-amino-8-bromo-5,6-dihydrobenzo[f]quinazolin-1(2H)-one | NC1=NC=2CCC3=C(C2C(N1)=O)C=CC(=C3)Br | C12H10BrN3O
